US08710049B2
To a round bottom flask was added CH2Cl2 (30 ml), 2M oxalyl chloride (4.31 mL, 8.63 mmol). The resulting solution was cooled to −78° C. DMSO (1.225 mL, 17.26 mmol) was then slowly added to the solution over 10 min. The reaction was then stirred at −78° C. for 15 min. The ethyl 4-(3-hydroxypyrrolidin-1-yl)benzoate (1.45 g, 6.16 mmol) pre-dissolved in CH2Cl2 (15 ml) was added to the reaction mixture over 10 min. The resulting solution was stirred at −78° C. for 2 hrs. After this time, Et3N (3.78 mL, 27.1 mmol) was added to the reaction mixture and the resulting solution was slowly warmed to 0° C. over 20 min. The reaction mixture was then diluted with CH2Cl2 (100 ml). The reaction mixture was wash with saturated aqueous NaHCO3 (100 ml), water (100 ml) and saturated aqueous NaCl (100 ml). The organic layer was separated, dried over MgSO4, filtered and concentrated to give crude product. The resulting residue was purified using silica gel chromatography (ISCO system) eluting with a gradient of 0-30% EtOAc/Hex) to give the product ethyl 4-(3-oxopyrrolidin-1-yl)benzoate (1.31 g, 5.62 mmol, 91% yield) as yellow solid. Anal. Calcd. for C13H15NO3 m/z 233.2, found: 234.0 (M+H)+.

reactant | oxalyl chloride | 8.63 mmol, 2M, 4.31 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 17.26 mmol, 1.225 mL | CS(=O)C | C2H6OS
reactant | ethyl 4-(3-hydroxypyrrolidin-1-yl)benzoate | 6.16 mmol, 1.45 g | OC1CN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C13H17NO3
reactant | Et3N | 27.1 mmol, 3.78 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl 4-(3-oxopyrrolidin-1-yl)benzoate | 5.62 mmol, 1.31 g, 91% yield | O=C1CN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C13H15NO3
